US03984467
1-(4-Chlorophenyl)-3-[11-(dimethylamino)undecanimidoyl]-2-thiourea
Following a procedure similar to that described in Example 42 but using 2.8 g. sodium in 300 ml. dry acetone, 18.5 g. 11-(dimethylamino)undecanamidine dihydrochloride, and 11.9 g. 4-chlorophenyl isothiocyanate in 100 ml. dry acetone there was obtained 10.4 g. 1-(4-chlorophenyl)-3-[11-(dimethylamino)undecanimidoyl]-2-thiourea dihydrochloride; m.p. 130°-132°C. (from isopropyl alcohol).

reactant | sodium | [Na] | Na
reactant | 11-(dimethylamino)undecanamidine dihydrochloride | Cl.Cl.CN(CCCCCCCCCCC(=N)N)C
reactant | 4-chlorophenyl isothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | 1-(4-chlorophenyl)-3-[11-(dimethylamino)undecanimidoyl]-2-thiourea dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)NC(=S)NC(CCCCCCCCCCN(C)C)=N
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Chlorophenyl)-3-[11-(dimethylamino)undecanimidoyl]-2-thiourea | ClC1=CC=C(C=C1)NC(=S)NC(CCCCCCCCCCN(C)C)=N | C20H33ClN4S
